US07858640B2
8-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinoline-5-carbonitrile
A mixture of trifluoromethanesulfonic acid 8-chloro-3-(4-chlorobenzyl)-2,4-dimethyl-quinolin-5-yl ester (0.29 g), zinc cyanide (0.036 g), tetrakis(triphenylphosphine)palladium(0), (0.071 g) in N,N-dimethylformamide (8.0 mL) was heated by microwave irradiation at 125° C. for 10 minutes. The mixture was diluted with water and the resulting precipitate collected by filtration and then purified by column chromatography on silica gel, eluting with a mixture of cyclohexane, dichloromethane and ethyl acetate (1:1:0 to 0:1:0 to 0:20:1 by volume) to afford title compound as a white solid, 0.17 g.

reactant | trifluoromethanesulfonic acid 8-chloro-3-(4-chlorobenzyl)-2,4-dimethyl-quinolin-5-yl ester | 0.29 g | ClC=1C=CC(=C2C(=C(C(=NC12)C)CC1=CC=C(C=C1)Cl)C)OS(=O)(=O)C(F)(F)F | C19H14Cl2F3NO3S
reactant | N,N-dimethylformamide | 8.0 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
catalyst | zinc cyanide | 0.036 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.071 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinoline-5-carbonitrile | ClC1=CC=C(C=2C(=C(C(=NC12)C)CC1=CC=C(C=C1)Cl)C)C#N | C19H14Cl2N2
